US07625922B2
tert-Butyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl-carbamate
Method E2 (with phosgene and pyridine). tert-Butyl 4-(2,3-diaminopyridin-4-yl-oxy)phenyl-carbamate (1 g, 3.16 mmol) was dissolved in dry THF (32 mL, 10 mL/mmol). The solution was cooled in an ice bath under nitrogen. Pyridine (0.59 mL, 7.27 mmol) was added and followed by dropwise addition a phosgene solution 1.93 M in toluene (2 mL, 3.79 mmol) under vigourous stirring. The ice bath was removed and the mixture was stirred at room temperature overnight, then at 60° C. during 2 hours. The solvent was evaporated under reduced pressure and the solid residue was washed with water and dried to afford the title compound (952 mg, 88%) as a brown solid. 1H-NMR (δ, ppm, DMSO-d6): 1.48 (9H, s, t-Bu), 6.29 (d, 1H, HPy,5, J=6.0 Hz), 7.09 (d, 2H, Harom,Ph,3+5, J=9.0 Hz), 7.51 (d, 2H, Harom,Ph,2+6, J=9.0 Hz), 7.73 (d, 1H, HPy,6, J=6.0 Hz), 9.43 (bs, 1H, NHBoc), 11.16 (bs, 1H, NHPy3) 11.34 (bs, 1H, NHPy2).; LC-MS (m/z): 343 (M+H, 100).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | tert-Butyl 4-(2,3-diaminopyridin-4-yl-oxy)phenyl-carbamate | 3.16 mmol, 1 g | NC1=NC=CC(=C1N)OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C16H20N4O3
reactant | Pyridine | 7.27 mmol, 0.59 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 1.93 M | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.79 mmol, 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)phenyl-carbamate | 952 mg, 88% | O=C1NC=2C(=NC=CC2OC2=CC=C(C=C2)NC(OC(C)(C)C)=O)N1 | C17H18N4O4
